US04206310
To a suspended CH2Cl2 (2 ml) solution of 2-bromo-1-methylpyridinium iodide (720 mg, 2.4 mmol) was added a mixture of benzyl alcohol (216 mg, 2.0 mmol), phenylacetic acid (272 mg, 2.0 mmol) and tri-n-butylamine (888 mg, 4.8 mmol) in CH2Cl2 (2 ml), and the resulting mixture was refluxed for 3 hours. After evaporation of the solvent, the residue was separated by silica gel column chromatography, and benzyl phenylacetate was isolated in 97% yield.

reactant | 2-bromo-1-methylpyridinium iodide | 2.4 mmol, 720 mg | [I-].BrC1=[N+](C=CC=C1)C
reactant | benzyl alcohol | 2.0 mmol, 216 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | phenylacetic acid | 2.0 mmol, 272 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | tri-n-butylamine | 4.8 mmol, 888 mg | C(CCC)N(CCCC)CCCC | C12H27N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | benzyl phenylacetate | 97% yield | C1(=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C15H14O2
